US06281227B1
B. [1-(1-Chloro-isoquinolin-6-ylmethyl)-2-oxopyrrolidin-3(S)-yl]-carbamic acid benyzl ester
To a solution of (2-oxopyrrolidin-3-(S)-yl)-carbamic acid benzyl ester (0.15 g, 0.64 mmol) in 6 mL of 10:1 THF:DMF at 0° C. is added a 60% NaH dispersion (0.03 g, 0.71 mmol) followed by 1-phenoxy-6-bromomethyl-isoquinoline (0.2 g, 0.64 mmol). After 16 hours, the solution is treated with 10 mL of saturated NH4Cl. The solution is diluted with CH2Cl2. The organic layer is washed with H2O and saturated NaCl. The resulting product is suspended in 5 g of NH4OAc and heated to 120° C. After 36 hours, the solution is cooled to ambient temperatures. The solution is diluted with H2O and CH2Cl2. The organic layer is washed with H2O and saturated NaCl. The organic layer is dried over MgSO4, filtered and concentrated. The residue is purified by column chromatography eluting with 5% MeOH/CH2Cl2 to 10% MeOH/CH2Cl2 to give the product as a white solid (0.043 g, 0.11 mmol).

reactant | (2-oxopyrrolidin-3-(S)-yl)-carbamic acid benzyl ester | 0.64 mmol, 0.15 g | C(C1=CC=CC=C1)OC(N[C@@H]1C(NCC1)=O)=O | C12H14N2O3
reactant | NaH | [H-].[Na+]
reactant | 1-phenoxy-6-bromomethyl-isoquinoline | 0.64 mmol, 0.2 g | O(C1=CC=CC=C1)C1=NC=CC2=CC(=CC=C12)CBr | C16H12BrNO
reactant | NH4Cl | 10 mL | [NH4+].[Cl-]
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | DMF | CN(C)C=O | C3H7NO
product | [1-(1-Chloro-isoquinolin-6-ylmethyl)-2-oxopyrrolidin-3(S)-yl]-carbamic acid | 0.11 mmol, 0.043 g | ClC1=NC=CC2=CC(=CC=C12)CN1C([C@H](CC1)NC(O)=O)=O | C15H14ClN3O3
